US04394156
14.7 g (0.042 mol) 1-(3'-nitro-4',6'-dimethylphenyl)-5-chloro-3-methoxycarbonyl-2-methyl-4-pyridone are dissolved in 450 ml dimethylformamide and, after adding of 1.5 g Raney-Ni hydrogenated at normal pressure and 20°-25° C. The catalyst is filtered off and the filtrate is concentrated by evaporation of the solvent. Cristallisation of the residue from ethanol yields 13.2 g (98%) 1-(3'-amino-4',6'-dimethylphenyl)-5-chloro-3-methoxycarbonyl-2-methyl-4-pyridone, mp. 215° C.

reactant | 1-(3'-nitro-4',6'-dimethylphenyl)-5-chloro-3-methoxycarbonyl-2-methyl-4-pyridone | 0.042 mol, 14.7 g | [N+](=O)([O-])C=1C=C(C(=CC1C)C)N1C(=C(C(C(=C1)Cl)=O)C(=O)OC)C | C16H15ClN2O5
solvent | dimethylformamide | 450 ml | CN(C=O)C | C3H7NO
catalyst | Ni | [Ni] | Ni
product | 1-(3'-amino-4',6'-dimethylphenyl)-5-chloro-3-methoxycarbonyl-2-methyl-4-pyridone | 13.2 g, 98% | NC=1C=C(C(=CC1C)C)N1C(=C(C(C(=C1)Cl)=O)C(=O)OC)C | C16H17ClN2O3
